US06362341B1
PhCH2CH2SH was treated with Cl2 in a rapidly stirred mixture of CHCl3 and H2O, and then the CHCl3 layer was washed with 5% NaHSO3 and sat. NaCl, dried with MgSO4, filtered, and concentrated to give PhCH2CH2SO2Cl. This product was treated with Pro-OtBu and Et3N in CH2Cl2 to give, after aqueous workup, PhCH2CH2SO2-Pro-OtBu. This product was treated with HCO2H, and the mixture was evaporated to give PhCH2CH2SO2-Pro-OH. This product was treated with HCl.Phe-OtBu, EDAC, HOBT, and Et3N in CH2Cl2 to give, after aqueous workup and flash chromatography, PhCH2CH2SO2-Pro-Phe-OtBu. This product was treated with HCO2H, and the mixture was evaporated to give the title compound as a clear oil.

reactant | Pro-OtBu | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | PhCH2CH2SO2-Pro-OtBu | C1(=CC=CC=C1)CCS(=O)(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C17H25NO4S
reactant | HCO2H | C(=O)O | CH2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | PhCH2CH2SO2-Pro-OH | C1(=CC=CC=C1)CCS(=O)(=O)N1[C@H](C(=O)O)CCC1 | C13H17NO4S
